US09024027B2
To a stirred solution of (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (200 mg, 0.476 mmol), DMAP (116 mg, 0.952 mmol), and EDC (182 mg, 0.952 mmol) in DCM (10 ml), 2-(1,3-dioxo-5-(N-(thiophen-2-ylmethyl)methylsulfonamido)isoindolin-2-yl)acetic acid (225 mg, 0.571 mmol) was added portion wise, and the resulting mixture was stirred at room temperature for 18 hours. The solvent was evaporated, and the crude was purified by flash chromatography on silica gel (DCM/MeOH 10/0.5). The resulting product was triturated with iPr2O affording after filtration 227 mg of crude desired product. A further purification by flash chromatography on silica gel (DCM/acetone 8/1) was performed to afford (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(1,3-dioxo-5-(N-(thiophen-2-ylmethyl)methylsulfonamido)isoindolin-2-yl)acetoxy)ethyl)pyridine 1-oxide (155 mg, 0.195 mmol, 40.9% yield, MS/ESI+ 796.02 [MH]+, [αD]=−30.31, c=0.415, DCM). 1H NMR (300 MHz, DMSO-d6) δ ppm 8.38 (s, 2H), 7.96 (d, 1H), 7.91 (d, 1H), 7.86 (dd, 1H), 7.40 (dd, 1H), 7.19 (d, 1H), 7.08 (d, 1H), 6.92-6.99 (m, 1H), 7.08 (t, 1H), 6.86 (d, 1H), 6.84 (d, 1H), 6.00 (dd, 1H), 5.25 (s, 2H), 4.39 (s, 2H), 3.81-4.09 (m, 2H), 3.37 (dd, 1H), 3.21 (s, 3H), 3.21 (dd, 1H), 1.17-1.37 (m, 1H), 0.50-0.69 (m, 2H), 0.21-0.46 (m, 2H)

reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.476 mmol, 200 mg | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | EDC | 0.952 mmol, 182 mg
reactant | 2-(1,3-dioxo-5-(N-(thiophen-2-ylmethyl)methylsulfonamido)isoindolin-2-yl)acetic acid | 0.571 mmol, 225 mg | O=C1N(C(C2=CC(=CC=C12)N(S(=O)(=O)C)CC=1SC=CC1)=O)CC(=O)O | C16H14N2O6S2
catalyst | DMAP | 0.952 mmol, 116 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(1,3-dioxo-5-(N-(thiophen-2-ylmethyl)methylsulfonamido)isoindolin-2-yl)acetoxy)ethyl)pyridine 1-oxide | 0.195 mmol, 155 mg, 40.9% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(C2=CC=C(C=C2C1=O)N(S(=O)(=O)C)CC=1SC=CC1)=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C34H29Cl2F2N3O9S2
